US06562811B1
To a cold (0° C.) solution of 2-fluoro-6-hydroxybenzoic acid (5.00 g, 32.029 mmol) in dimethyl formamide (200 mL) were added N,O-dimethylhydroxylamine hydro-chloride (6.25 g, 64.057 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (9.82 g, 48.043 mmol), 1-hydroxybenzotriazole (5.19 g, 38.435 mmol), and triethylamine (8.93 mL, 64.057 mmol). The mixture was stirred at room temperature for 15 hrs. The reaction mixture was extracted with ethyl acetate and water. The separated organic phase was washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The resulting residue was purified by column chromatography on silica gel (ethyl acetate/hexane=2/1) to give 2-fluoro-6-hydroxy-N-methoxy-N-methylbenzamide as an orange solid (4.320 g, yield; 68%).

reactant | 2-fluoro-6-hydroxybenzoic acid | 32.029 mmol, 5.00 g | FC1=C(C(=O)O)C(=CC=C1)O | C7H5FO3
reactant | N,O-dimethylhydroxylamine hydro-chloride | 64.057 mmol, 6.25 g | Cl.CNOC
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 48.043 mmol, 9.82 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 38.435 mmol, 5.19 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 64.057 mmol, 8.93 mL | C(C)N(CC)CC | C6H15N
solvent | dimethyl formamide | 200 mL | CN(C=O)C | C3H7NO
product | 2-fluoro-6-hydroxy-N-methoxy-N-methylbenzamide | 4.320 g, yield; 68% | FC1=C(C(=O)N(C)OC)C(=CC=C1)O | C9H10FNO3
